US05674482
To a solution of ethyl 4-benzyloxyphenethyl sulfonate (1.43 g) in ethyl acetate (25 ml) is added 10% palladium on carbon (0.25 g) and the mixture shaken under 30 psi of hydrogen for 3 hours. The mixture is filtered and concentrated in vacuo to give ethyl 4-hydroxyphenethyl sulfonate.

reactant | ethyl 4-benzyloxyphenethyl sulfonate | 1.43 g | C(C1=CC=CC=C1)OC1=CC=C(CCS(=O)(=O)OCC)C=C1 | C17H20O4S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
product | ethyl 4-hydroxyphenethyl sulfonate | OC1=CC=C(CCS(=O)(=O)OCC)C=C1 | C10H14O4S
